US06949680B2
c) Synthesis of 4-(decyloxy)-1-(4-methylphenyl)-1-butanone
This compound was synthesized as described under 5.c) with 4.4 ml of HCl (1N) and 4.33 g (11.9 mmol) of 2-[3-(decyloxy)propyl]-2-(4-methylphenyl)-1,3-dioxolane obtained under b) in 100 ml of THF to give 3.82 g (99%) of a slightly yellow oil that solidifies at 4°.

reactant | HCl | 1N, 4.4 ml | Cl | ClH
reactant | 2-[3-(decyloxy)propyl]-2-(4-methylphenyl)-1,3-dioxolane | 11.9 mmol, 4.33 g | C(CCCCCCCCC)OCCCC1(OCCO1)C1=CC=C(C=C1)C | C23H38O3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-(decyloxy)-1-(4-methylphenyl)-1-butanone | C(CCCCCCCCC)OCCCC(=O)C1=CC=C(C=C1)C | C21H34O2
